data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][OH2+:21].C1CC([O:10]C1)(O)O>>[H:20][O+:10]1CCCC1(O)O.[OH2:21] 10=20;20,21=21
CC[N+]1=[C-:10]SC(=C1C)CCO.COC1=CC(=CC(=C1OC)OC)[CH:20]=[O:21].CC[NH+](CC)CC.CCO.CC(=O)C=C.[Br-]>>CC[N+]1=[C:10](SC(=C1C)CCO)[CH:20](C2=CC(=C(C(=C2)OC)OC)OC)[O-:21].CC[NH+](CC)CC.CCO.CC(=O)C=C.[Br-] 10=20;20,21=21
[H:20][C:21]1(C=CC=C([CH+:22]1)C(=O)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=CC=C[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
CC(C)[N:10](C)C.[CH3:20][I:21]>>CC(C)[N+:10](C)(C)[CH3:20].[I-:21] 10=20;20,21=21
C1CCC(=[O:10])CC1.Cl[Ti:20](Cl)(Cl)Cl.CCCNCCC>>C1CCC(=[O+:10][Ti-:20](Cl)(Cl)(Cl)Cl)CC1.CCCNCCC 10=20,
[H:20][CH:21]1C(=C([O+:23]=[C:22]1C2=CC=CC=C2)C)C(=O)OCC3=CC=CC=C3.[OH2:10].C(F)(F)(F)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC1=C([CH:21]=[C:22]([O:23]1)C2=CC=CC=C2)C(=O)OCC3=CC=CC=C3.C(F)(F)(F)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][N+:21]12CCN(CC1)CC2.CCOC(=C(C[N+]12CCN(CC1)CC2)C(C3=C(C=CC=C3)OC)[O-:10])[O-]>>C1CN2CC[N:21]1CC2.[H:20][O:10]C(C1=C(C=CC=C1)OC)C(=C([O-])OCC)C[N+]23CCN(CC2)CC3 10=20;20,21=21
[H:20][O:21]C(=O)C.CC(O)(O)[O-:10]>>[H:20][O:10]C(C)(O)O.CC(=O)[O-:21] 10=20;20,21=21
[CH3:20][I:21].C1C2=C(C=CC=C2)C(=[NH:10])S1>>[CH3:20][NH+:10]=C1C2=C(CS1)C=CC=C2.[I-:21] 10=20;20,21=21
[H:20][CH:21](CCC(C)C12CCC(C1)C(C2=O)(C)COS(=O)(=O)C3=CC=C(C=C3)C)[S:22](=O)(=[O:23])C4=CC=CC=C4.[H:10][Na:11]>>CC1=CC=C(C=C1)S(=O)(=O)OCC2(C3CCC(C3)(C2=O)C(C)CC[CH:21]=[S:22](=O)(C4=CC=CC=C4)[O-:23])C.[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
CC[C:11]#[C:10]CC(CC(C)C)C[N+:21](=[CH2:20])CC1=CC=CC=C1>>CC[C+:11]=[C:10]1CC(C[N:21]([CH2:20]1)CC2=CC=CC=C2)CC(C)C 10,11=10,20;20,21=21
[Li:11][C:10]1=CCCCC1.C1=CC=C(C=C1)[C:20](=[O:21])C2=CC=CC=C2.CC(C)(C)I>>[Li+:11].C1CC[C:10](=CC1)[C:20](C2=CC=CC=C2)(C3=CC=CC=C3)[O-:21].CC(C)(C)I 10,11=10,20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.[C-:10]#CCC1=CC=CC=C1>>[H:20][C:10]#CCC1=CC=CC=C1.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
CC(C)C1=NOC(=N1)N2CCC(CC2)[CH2:20][O:21]S(=O)(=O)C.CSC1=CC=C(C=C1)C2=CC=C(C=C2)[O-:10].C(=O)(O)O[K].[K+]>>CC(C)C1=NOC(=N1)N2CCC(CC2)[CH2:20][O:10]C3=CC=C(C=C3)C4=CC=C(C=C4)SC.CS(=O)(=O)[O-:21].C(=O)(O)O[K].[K+] 10=20;20,21=21
C[CH:20]=[O:21].C1C[CH:10]=[C:11](C1)[O-:12]>>C[CH:20]([CH:10]1CCC[C:11]1=[O:12])[O-:21] 10,11=10,20;20,21=21;12=11
C[Si-:10](C)(C)(Cl)[Br:11]>>C[Si:10](C)(C)Cl.[Br-:11] 10,11=11
[H:20][O:21]S(=O)(=O)O.C1C[O:10]1>>[H:20][O+:10]1CC1.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][N+:21](C)(C1=CC=CC=C1)C(CC(C)CCC=C(C)C=O)O.C[NH:10]C1=CC=CC=C1>>[H:20][NH+:10](C)C1=CC=CC=C1.CC(CCC=C(C)C=O)CC([N:21](C)C1=CC=CC=C1)O 10=20;20,21=21
CC12CCCC=C1C=C(CC2)[N+:21]3(CCCC3)[CH3:20].[I-:10]>>CC12CCCC=C1C=C(CC2)[N:21]3CCCC3.[CH3:20][I:10] 10=20;20,21=21
CCC(=O)O[C:13]1=[CH:12][CH:11]=[CH:10]C=C1.C[CH+:20]C>>CCC(=O)O[C+:13]1C=C[CH:10]([CH:11]=[CH:12]1)[CH:20](C)C 10,11=10,20;12,13=11,12
CC1=CC[C:20]([NH:10]1)(C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(=O)C)[OH2+:21].CC(=O)[O-].C(=O)[O-].O>>CC1=CC[C:20](=[NH+:10]1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(=O)C.[OH2:21].CC(=O)[O-].C(=O)[O-].O 10=20;20,21=21
[H:20][O:21]CCC1=CNC2=C1C=CC=C2.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.C1=CC2=C(C=C1)NC=C2CC[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
[B-:10]([O+:11]1C(CN=C1C)COS(=O)(=O)C)(F)(F)F>>[B:10](F)(F)F.CC1=NCC([O:11]1)COS(=O)(=O)C 10,11=11
COC1=CC2=C(C=C1)C=C(C=C2)[C:20](=[O:21])CC=C(C3=CC=CC=C3)[NH2:10].CC(=O)O.O>>COC1=CC2=C(C=C1)C=C(C=C2)[C:20]3(CC=C([NH2+:10]3)C4=CC=CC=C4)[O-:21].CC(=O)O.O 10=20;20,21=21
[B-:10](O)([O:11]C1=C2C3=C(CC4C5(C3(CCN4)C(O2)C(=O)CC5)O)C=C1)(Br)Br.CBr.O>>[B:10](O)(Br)Br.C1CC2(C3CC4=C5C2(CCN3)C(C1=O)OC5=C(C=C4)[O-:11])O.CBr.O 10,11=11
[H:20][O+:21](C)C1CCCCO1.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C[O:21]C1CCCCO1 10=20;20,21=21
CC[N:12]1C(=C(S[C:11]1=[C:10](C2=CC(=C(C(=C2)OC)OC)OC)O)CCO)C.C[C:22](=[O:23])[CH:21]=[CH2:20].CC[NH+](CC)CC.CCO.[Br-]>>CC[N+:12]1=[C:11](SC(=C1C)CCO)[C:10]([CH2:20][CH:21]=[C:22](C)[O-:23])(C2=CC(=C(C(=C2)OC)OC)OC)O.CC[NH+](CC)CC.CCO.[Br-] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][Cl:21].CCC(C1=[N:10]CCO1)O>>[H:20][N+:10]1=C(OCC1)C(CC)O.[Cl-:21] 10=20;20,21=21
[H:20][O:21][C:22]1=[NH+:23]CC2(CCC(C1)(N2OC(=O)C)C)C.CC[N:10](CC)CC.CC1=CC(=C(C(=C1)C)S(=O)(=O)[O-])C>>[H:20][N+:10](CC)(CC)CC.CC(=O)ON1C2(CCC1(C[NH:23][C:22](=[O:21])C2)C)C.CC1=CC(=C(C(=C1)C)S(=O)(=O)[O-])C 10=20;22,23=23;20,21=21,22
CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CC[C:20](C)([NH2:10])[OH2+:21].CC(=O)[O-].C(=O)[O-]>>CC1=CC=C(N1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CC[C:20](=[NH2+:10])C.[OH2:21].CC(=O)[O-].C(=O)[O-] 10=20;20,21=21
[B-:11]1(OC2CC3CC(C3(C)C)C2(O1)C)([CH2:10][Si](C)(C)C)[CH:20](C=C)[Cl:21].[Li+].[Mg+]Br.[Cl-]>>[B:11]1(OC2CC3CC(C3(C)C)C2(O1)C)[CH:20]([CH2:10][Si](C)(C)C)C=C.[Cl-:21].[Li+].[Mg+]Br.[Cl-] 10,11=10,20;20,21=21
[H:20][N+:21](=C=NC)C.OP(=O)(O)[O-:10]>>CN=C=[N:21]C.[H:20][O:10]P(=O)(O)O 10=20;20,21=21
